US04436726
The reaction of hexadecanal (1.2 g) and tertbutyl bromoacetate (1.56 g) was carried out under the presence of activated zinc (0.59 g) according to similar manner to that of Preparation 1-(1) to afford an oil of tert-butyl 3-hydroxyoctadecanoate.

reactant | hexadecanal | 1.2 g | C(CCCCCCCCCCCCCCC)=O | C16H32O
reactant | tertbutyl bromoacetate | 1.56 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
catalyst | zinc | 0.59 g | [Zn] | Zn
product | tert-butyl 3-hydroxyoctadecanoate | OC(CC(=O)OC(C)(C)C)CCCCCCCCCCCCCCC | C22H44O3
